US08791255B2
The product is prepared according to the procedure described in Example 5, using 250 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 525 mg of (5-amino-2-fluorophenyl)methanol in place of the 2,4-difluoroaniline. 218 mg of N-[4-fluoro-3-(hydroxymethyl)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a beige solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 250 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | (5-amino-2-fluorophenyl)methanol | 525 mg | NC=1C=CC(=C(C1)CO)F | C7H8FNO
product | N-[4-fluoro-3-(hydroxymethyl)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 218 mg | FC1=C(C=C(C=C1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O)CO | C17H19FN4O4
